US08242130B2
1-(2-Hydroxy-phenyl)-3-(4-methoxy-pyridin-2-yl)-propane-1,3-dione (870 mg, 3.21 mmol) was dissolved in a mixture of 48% HCl (1 mL) and AcOH (10 mL) and heated at 100° C. for 1 h. The reaction mixture was cooled to rt, diluted with water and extracted with EtOAc. The organic layer was washed with water, brine, dried and concentrated to give 2-(5-methoxy-pyridin-2-yl)-chromen-4-one (794 mg, 98%).

reactant | 1-(2-Hydroxy-phenyl)-3-(4-methoxy-pyridin-2-yl)-propane-1,3-dione | 3.21 mmol, 870 mg | OC1=C(C=CC=C1)C(CC(=O)C1=NC=CC(=C1)OC)=O | C15H13NO4
reactant | AcOH | 10 mL | CC(=O)O | C2H4O2
solvent | HCl | 1 mL | Cl | ClH
solvent | water | O | H2O
product | 2-(5-methoxy-pyridin-2-yl)-chromen-4-one | 794 mg, 98% | COC=1C=CC(=NC1)C=1OC2=CC=CC=C2C(C1)=O | C15H11NO3
